US08529868B2
50 g of diphenylphosphine were mixed with 150 ml of ethanol under nitrogen atmosphere. 37.12 g of potassium carbonate were then added to the mixture and the mixture was stirred. Finally, 125.73 g of ethyl iodide were added dropwise. After 48 hours at 50° C., the ethanol was removed. The product was then dissolved in chloroform. The chloroform was evaporated and the solid washed with diethyl ether and dried under vacuum. 98.45 g of diphenyl-diethyl-phosphonium iodide were obtained (98.5% wt. yield)

reactant | diphenylphosphine | 50 g | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
reactant | potassium carbonate | 37.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 125.73 g | C(C)I | C2H5I
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | diphenyl-diethyl-phosphonium iodide | 98.45 g | [I-].C1(=CC=CC=C1)[P+](CC)(CC)C1=CC=CC=C1 | InChI=1S/C16H20P.HI/c1-3-17(4-2,15-11-7-5-8-12-15)16-13-9-6-10-14-16;/h5-14H,3-4H2,1-2H3;1H/q+1;/p-1
